US05994381
Triethylamine (8.39 ml) was added to a suspension of DL-N-acetyl-2-cyclohexylglycine (10.00 g) obtained from α-aminophenylacetic acid according to a known method [Collect. Czeck. Chem. Commun., 31: 4563 (1996)] in ethyl acetate (50 ml). Ethyl chlorocarbonate (5.28 ml) was dropwise added to the mixture under ice-cooling. The mixture was stirred under ice-cooling for one hour, added with ethyl acetate (150 ml), and washed successively with water and saturated brine. The ethyl acetate solution was concentrated under reduced pressure to give 9.86 g of the title compound as an oil.

reactant | Triethylamine | 8.39 ml | C(C)N(CC)CC | C6H15N
reactant | N-acetyl-2-cyclohexylglycine | 10.00 g | C(C)(=O)NC(C(=O)O)C1CCCCC1 | C10H17NO3
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | α-aminophenylacetic acid | NC(C(=O)O)C1=CC=CC=C1 | C8H9NO2
